US08293746B2
Step 28.2: 2-Chloro-4-(4-ethyl-piperazin-1-yl)-phenylamine
A suspension of 1-(3-chloro-4-nitro-phenyl)-4-ethyl-piperazine (1 g, 3.7 mmol) and Raney Nickel (0.1 g) in MeOH (20 mL) is stirred for 8 h at RT, under a hydrogen atmosphere. The reaction mixture is filtered through a pad of celite and concentrated. The residue is purified by silica gel column chromatography (DCM/MeOH+1% NH3aq, 95:5) to afford the title compound as an off-white solid: ESI-MS: 240.1/242.1 [MH]+; tR=0.90 min (system 1), TLC: Rf=0.46 (DCM/MeOH+1% NH3aq, 95:5).

reactant | 1-(3-chloro-4-nitro-phenyl)-4-ethyl-piperazine | 3.7 mmol, 1 g | ClC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)CC | C12H16ClN3O2
catalyst | Raney Nickel | 0.1 g | [Ni] | Ni
solvent | MeOH | 20 mL | CO | CH4O
product | 2-Chloro-4-(4-ethyl-piperazin-1-yl)-phenylamine | ClC1=C(C=CC(=C1)N1CCN(CC1)CC)N | C12H18ClN3
